US04405552
EXAMPLE 16: 1-(2,6-DICHLOROBENZOYL)-3-(5-PHENYL-2-PYRIDYL)UREA
2,6-Dichlorobenzoyl isocyanate (1.5 grams) in a small amount of dichloromethane was added to a solution of 5-phenyl-2-pyridylamine (1.0 gram) in 15 ml dichloromethane. After refluxing for about 5 minutes a precipitate formed. Following this, the reaction mixture was stirred at room temperature, cooled, and then the precipitate was filtered and recrystallized from ethanol, yield 1.8 grams. The identity of the final product was confirmed by NMR, m.p. 221°-231° C.

reactant | 2,6-Dichlorobenzoyl isocyanate | 1.5 grams | ClC1=C(C(=O)N=C=O)C(=CC=C1)Cl | C8H3Cl2NO2
reactant | 5-phenyl-2-pyridylamine | 1.0 gram | C1(=CC=CC=C1)C=1C=CC(=NC1)N | C11H10N2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-(2,6-DICHLOROBENZOYL)-3-(5-PHENYL-2-PYRIDYL)UREA | ClC1=C(C(=O)NC(=O)NC2=NC=C(C=C2)C2=CC=CC=C2)C(=CC=C1)Cl | C19H13Cl2N3O2
